US06992094B1
b) 6-(3,5-Di-tert-butyl-2-benzyloxyphenylselanyl)-nicotinic acid
The product is obtained in a manner similar to that of Example 7, starting with 3,5-di-tert-butyl-2-benzyloxyphenyl diselenide and ethyl 6-iodonicotinate.

reactant | 3,5-di-tert-butyl-2-benzyloxyphenyl diselenide | C(C)(C)(C)C=1C(=C(C=C(C1)C(C)(C)C)[Se][Se]C1=C(C(=CC(=C1)C(C)(C)C)C(C)(C)C)OCC1=CC=CC=C1)OCC1=CC=CC=C1 | C42H54O2Se2
reactant | ethyl 6-iodonicotinate | IC1=NC=C(C(=O)OCC)C=C1 | C8H8INO2
product | 6-(3,5-Di-tert-butyl-2-benzyloxyphenylselanyl)-nicotinic acid | C(C)(C)(C)C=1C(=C(C=C(C1)C(C)(C)C)[Se]C1=NC=C(C(=O)O)C=C1)OCC1=CC=CC=C1 | C27H31NO3Se
